US04839376
(4) 1-(3-Pyridylcarbonyl)-5-phenyl-2-pyrazoline
A mixture of 5-phenyl-2-pyrazoline (2.9 g) and triethylamine (4 g) was added dropwise with ice cooling to a suspension of nicotinoyl chloride hydrochloride (4 g) in 20 ml chloroform, the resulting mixture was stirred for 15 minutes, washed with water and concentrated, and the concentrate was purified by silica gel chromatography (chloroform/methanol=100/1), giving 4.3 g (yield: 86%) of pure product. M.p. 100°-102° C.; NMR (CDCl3): 2.9-3.8 (2H, m), 5.61 (1H, dd, J=5, 12 Hz), 7.03 (1H, t, J=2 Hz), 7.31 (5H, s), 7.28 (1H, m), 8.15 (1H, dt, J=8, 2 Hz), 8.68 (1H, dd, J=2, 6 Hz), 9.13(1H, d, J=2 Hz).

reactant | 5-phenyl-2-pyrazoline | 2.9 g | C1(=CC=CC=C1)C1CC=NN1 | C9H10N2
reactant | triethylamine | 4 g | C(C)N(CC)CC | C6H15N
reactant | nicotinoyl chloride hydrochloride | 4 g | Cl.C(C1=CN=CC=C1)(=O)Cl
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(3-Pyridylcarbonyl)-5-phenyl-2-pyrazoline | 4.3 g, yield: 86% | N1=CC(=CC=C1)C(=O)N1N=CCC1C1=CC=CC=C1 | C15H13N3O
